US07902252B2
A suspension of polyphosphoric acid (115%, 109 g) and powdered 3-(5-(methoxycarbonyl)-1H-pyrrol-2-yl)propanoic acid (12.1 g, 51.8 mmol) in 1,2-dichloroethane (40 mL) was heated for 1 h at 100° C. with occasional mixing with a large spatula. Water (100 mL) was added and the mixture was carefully poured into a large Erlenmeyer flask containing solid sodium bicarbonate and ice. The reaction was neutralized (pH 7) and then extracted with EtOAc (5×150 mL). The combined organic extracts were washed with water, NaHCO3, brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography (0-80% EtOAc/Heptane) to afford 8.0 g of methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (86%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.93-2.98 (m, 2H), 2.99-3.04 (m, 2H), 3.90 (s, 3H), 6.98 (d, J=1.71 Hz, 1H), 9.42 (br s, 1H); LCMS-MS (ESI+) 180.0 (M+H).

reactant | 3-(5-(methoxycarbonyl)-1H-pyrrol-2-yl)propanoic acid | 51.8 mmol, 12.1 g | COC(=O)C1=CC=C(N1)CCC(=O)O | C9H11NO4
reactant | Water | 100 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 8.0 g, 86% | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
